### PR TITLE
[Merged by Bors] - feat: add RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_le_pow_inertiaDeg_of_mem_primesOver_of_mem_Icc

### PR DESCRIPTION
**Pull request by riccardobrasca**
We improve the statement of `RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver_of_le` to `RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_le_pow_inertiaDeg_of_mem_primesOver_of_mem_Icc`: it is enough to only test primes `p` and ideals `P` such that `p ^ ((span {p}).inertiaDeg P` is less than Minkowski's bound.

We also improve the structure of the file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 1]
```diff
@@ -18,16 +19,27 @@ on the class number.
 ## Main definitions
 - `NumberField.classNumber`: the class number of a number field is the (finite)
 cardinality of the class group of its ring of integers
-- `RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver_of_le`: to show that the
-ring of integer of a number field is a PID it is enough to show that all ideals above any (natural)
-prime `p` smaller than Minkowski bound are principal. This is the standard technique to prove that
-`𝓞 K` is principal, see [marcus1977number], discussion after Theorem 37.
+- `isPrincipalIdealRing_of_isPrincipal_of_le_pow_inertiaDeg_of_mem_primesOver_of_mem_Icc`: let `K`
+be a number field and let `M K` be the Minkowski bound of `K`. To show that `𝓞 K` is a PID it is
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:23]: Since it is not defined explicitly anywhere in the library, can you say here what it is and point at its def in this file?

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 2]
```diff
@@ -18,16 +19,27 @@ on the class number.
...
+enough to show that, for all (natural) primes `p ∈ Finset.Icc 1 ⌊(M K)⌋₊`, all ideals `P` above `p`
+such that `p ^ (span ({p}).inertiaDeg P)` are principal. This is the standard technique to prove
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:25]: There is an inequality missing, I think.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 3]
```diff
@@ -18,16 +19,27 @@ on the class number.
...
+that `𝓞 K` is principal, see [marcus1977number], discussion after Theorem 37.
+
+The way this theorem should be used is to first of all compute `⌊(M K)⌋₊` and then use `fin_cases`
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:28]:
```suggestion
The way this theorem should be used is to first compute `⌊(M K)⌋₊` and then to use `fin_cases`
```

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 4]
```diff
@@ -101,50 +112,55 @@ theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le_of_
...
-    (h : ∀ ⦃p : ℕ⦄, p.Prime → p ≤ (4 / π) ^ nrComplexPlaces K *
-      ((finrank ℚ K)! / (finrank ℚ K) ^ (finrank ℚ K) * √|discr K|) →
-      ∀ (I : Ideal (𝓞 K)), I ∈ Ideal.primesOver (span {(p : ℤ)}) (𝓞 K) →
-      Submodule.IsPrincipal I) :
-    IsPrincipalIdealRing (𝓞 K) := by
-  refine RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le_of_isPrime <|
-    fun ⟨P, HP⟩ hP hPNorm ↦ ?_
+/-- Let `K` be a number field and let `M K` be the Minkowski bound of `K`. To show that `𝓞 K` is a
+PID it is enough to show that, for all (natural) primes `p ∈ Finset.Icc 1 ⌊(M K)⌋₊`, all ideals `P`
+above `p` such that `p ^ (span ({p}).inertiaDeg P)` are principal. This is the standard technique to
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:117]: missing inequality again

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 5]
```diff
@@ -101,50 +112,55 @@ theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le_of_
...
+prove that `𝓞 K` is principal, see [marcus1977number], discussion after Theorem 37.
+
+The way this theorem should be used is to first of all compute `⌊(M K)⌋₊` and then use `fin_cases`
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:120]:
```suggestion
The way this theorem should be used is to first compute `⌊(M K)⌋₊` and then to use `fin_cases`
```

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 6]
```diff
@@ -101,50 +112,55 @@ theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le_of_
...
+to deal with the finite number of primes `p` in the interval. -/
+theorem isPrincipalIdealRing_of_isPrincipal_of_le_pow_inertiaDeg_of_mem_primesOver_of_mem_Icc
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:122]:
```suggestion
theorem isPrincipalIdealRing_of_isPrincipal_of_pow_inertiaDeg_le_of_mem_primesOver_of_mem_Icc
```

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 7]
```diff
@@ -238,6 +239,23 @@ lemma inertiaDeg_map_eq [p.IsMaximal] (P : Ideal S)
 
 end DecEq
 
+
+section absNorm
+
+/-- The absolute norm of an ideal `P` above a rational prime `p` is
```
Comment (faenuccio) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean:245]: Do we have the same result for an arbitrary extension of global fields?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean:245]: I don't think so (I am 99.9% sure). Anyway this result would not be a special case, since `absNorm` is a number, and `relNorm` is an ideal.

Comment (faenuccio) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean:245]: No, no, I agree; but the proof would probably be similar, so mine was a "soft encouragement" to try to add that result as well 😄

Comment (riccardobrasca) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean:245]: I tried, but since `relNorm` is defined as the ideal generated by the norm of all elements it requires more work and it's probably suitable for another PR.

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 8]
```diff
@@ -238,6 +239,23 @@ lemma inertiaDeg_map_eq [p.IsMaximal] (P : Ideal S)
...
+`|p| ^ ((span {p}).inertiaDeg P)`. -/
+lemma absNorm_eq_pow_inertiaDeg [IsDedekindDomain R] [Module.Free ℤ R] [Module.Finite ℤ R] {p : ℤ}
+      (P : Ideal R) [P.LiesOver (span {p})] (hp: Prime p) :
+    absNorm P = p.natAbs ^ ((span {p}).inertiaDeg P) := by
+  have : (span {p}).IsMaximal :=
+    (isPrime_of_prime (prime_span_singleton_iff.mpr hp)).isMaximal (by simp [hp.ne_zero])
+  have h : Module.Finite (ℤ ⧸ span {p}) (R ⧸ P) := module_finite_of_liesOver P (span {p})
```
Comment (faenuccio) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean:252]: why explicitly naming this `have`?

**Comment by faenuccio** [comment]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
